US05308854
Step B: Preparation of 5-butyl-6-methylpyridin-2(1H)-one
A suspension of 3-cyano-5-butyl-6-methylpyridin-2(1H)-one (950 mg, 5.0 mmol) in 6N hydrochloric acid (36 mL) was refluxed for 3 days. The reaction was cooled and extracted with methylene chloride to isolate product. It was then dried with methylene chloride solution, filtered and evaporated. The residue was triturated with diethyl ether to yield product (563 mg, 68%).

reactant | 3-cyano-5-butyl-6-methylpyridin-2(1H)-one | 5.0 mmol, 950 mg | C(#N)C=1C(NC(=C(C1)CCCC)C)=O | C11H14N2O
solvent | hydrochloric acid | 6N, 36 mL | Cl | ClH
product | 5-butyl-6-methylpyridin-2(1H)-one | 563 mg, 68% | C(CCC)C=1C=CC(NC1C)=O | C10H15NO
